US05442062
Sorbic acid (5.01 g, 44.7 mmol) and t-butylamide (3.59 g, 49 mmol) were dissolved in dimethylformamide (150 ml) and the solution was stirred under ice-cooling. To the solution was added diphenylphosphoryl azide (14.8 g, 53.8 mmol) and triethylamine (9.95 g, 98.3 mmol) was added thereto. The mixture was stirred for 18 hours while allowing to rise the temperature to room temperature. The reaction mixture was diluted with ethyl acetate and the dilution was washed with an aqueous saturated sodium chloride solution. The ethyl acetate layer was washed with an aqueous saturated sodium carbonate solution and an aqueous saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=20:1-5:1) to obtain sorbic acid N-t-butylamide as (2.82 g, 37.6%) pale yellow solid. This compound has the following NMR spectrum.

reactant | Sorbic acid | 44.7 mmol, 5.01 g | C(\C=C\C=C\C)(=O)O | C6H8O2
reactant | t-butylamide | 49 mmol, 3.59 g | C(C)(C)(C)[NH-]
reactant | diphenylphosphoryl azide | 53.8 mmol, 14.8 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 98.3 mmol, 9.95 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | sorbic acid N-t-butylamide | C(C)(C)(C)NC(\C=C\C=C\C)=O | C10H17NO
